US07074817B2
{1-Benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid
{1-Benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid was prepared from ethyl 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetate (0.463 g, 0.991 mmol), potassium hydroxide (0.224 g, 3.99 mmol) in THF (5 mL) and water (5 mL) according to the procedure described in Step 4 of Example 5. The title compound was obtained as a light yellow solid (0.314 g, 78%), mp 169-171° C. Mass spectrum (+APCI, [M+H]+) m/z 440; 1HNMR (400 MHz, DMSO-d6): δ 13.8-14.2 (br s, 1H), 8.75 (s, 1H), 8.45 (d, 1H, J=1.5 Hz), 7.75-7.8 (m, 2H), 7.7 (d, 1H, J=8.5 Hz), 7.6 (dd, 1H, J=8.7 Hz), 7.45 (d, 2H, J=8.8 Hz), 7.25-7.35 (m, 5H), and 5.65 ppm (s, 2H).

reactant | ethyl 2-{1-benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}-2-oxoacetate | 0.991 mmol, 0.463 g | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)OCC)=O | C26H20F3NO4
reactant | potassium hydroxide | 3.99 mmol, 0.224 g | [OH-].[K+]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | {1-Benzyl-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid | C(C1=CC=CC=C1)N1C=C(C2=CC(=CC=C12)C1=CC=C(C=C1)OC(F)(F)F)C(C(=O)O)=O | C24H16F3NO4
